US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2,2,2-trifluoroethoxy)ethoxy)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound BS)
To a solution of 1-bromo-4-chloro-5-(4-ethylbenzyl)-2-(2-(2,2,2-trifluoroethoxy)ethoxy)benzene (BR) (96 mg, 0.21 mmol) and (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one (0.20 g, 0.43 mmol) in anhydrous THF (3 mL), was added n-BuLi (1.6 M, 0.40 mL) in a dropwise fashion at −78° C. over 15 min. The resulting solution was stirred at −78° C. for 30 min. After quenching with methanesulfonic acid (61 μL in 1.0 mL MeOH), the mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was filtered through silica and purified by preparative TLC eluting with 7% MeOH in CH2Cl2 to collect the crude product. To a solution of the crude product in a mixture of 1:1 CH3CN:CH2Cl2 (4 mL) was added Et3SiH (200 μL), followed by cooling to −40° C. To the cooled mixture was added BF3.Et2O (40 μL), and it was allowed to warm to 0° C. over 2 h. Triethylamine (100 μL) was then added, the mixture was evaporated, and the residue was purified by preparative HPLC to give compound BS. 1H-NMR (CD3OD, 300 MHz) δ 7.32 (s, 1H), 7.04 (m, 5H), 4.59 (d, J=9.3 Hz, 1H), 416-3.96 (m, 8H), 3.66-3.30 (m, 7H), 2.57 (q, J=7.5, 2H), 1.19 (t, J=7.2 Hz, 3H); MS ESI m/z 532.8 (M−1).

reactant | 1-bromo-4-chloro-5-(4-ethylbenzyl)-2-(2-(2,2,2-trifluoroethoxy)ethoxy)benzene | 0.21 mmol, 96 mg | BrC1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)OCCOCC(F)(F)F | C19H19BrClF3O2
reactant | (3R,4S,5R,6R)-3,4,5-tris(trimethylsilyloxy)-6-((trimethylsilyloxy)methyl)-tetrahydropyran-2-one | 0.43 mmol, 0.20 g | C[Si](O[C@H]1C(O[C@@H]([C@H]([C@@H]1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
reactant | n-BuLi | 1.6 M, 0.40 mL | [Li]CCCC
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2,2,2-trifluoroethoxy)ethoxy)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | ClC1=CC(=C(C=C1CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)OCCOCC(F)(F)F | C25H30ClF3O7
